US07253286B2
6-Chloro-4-(4-nitrophenoxy)pyrimidine
After adding 4,6-dichloropyrimidine (750 mg) to a suspension of 4-nitrophenol (700 mg) and sodium hydride (60%) (200 mg) indimethylformamide (13 ml) at 0° C., the mixture was heated and stirred at 80° C. for 1.5 hours. The reaction solution was poured into saturated brine and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and then concentrated. The obtained residue was passed through an NH silica gel column (Fuji Silysia Chemical), eluted with a solvent (ethyl acetate-hexane=1–4) and concentrated to obtain 700 mg of the title compound.

reactant | 4,6-dichloropyrimidine | 750 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-nitrophenol | 700 mg | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium hydride | 200 mg | [H-].[Na+]
solvent | brine | [Cl-].[Na+].O
product | 6-Chloro-4-(4-nitrophenoxy)pyrimidine | 700 mg | ClC1=CC(=NC=N1)OC1=CC=C(C=C1)[N+](=O)[O-] | C10H6ClN3O3
